US07714009B2
4-Dipropylamino-3-methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one
To a slurry of 750 mg (4.57 mmol) of 4-amino-3-methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one in 15 mL of dichloroethane was added 3.30 mL (45.7 mmol) of propionaldehyde, 1.0 mL of acetic acid, and 2.90 g (13.7 mmol) of sodium triacetoxyborohydride and the reaction was heated at 45° C. for 7.5 h. The reaction was diluted with 15 mL of dichloromethane and 15 mL of water and the aqueous layer was extracted with 15 mL of dichloromethane. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue thus obtained (0.91 g, 80%) was used in the next reaction without further purification.

reactant | 4-amino-3-methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one | 4.57 mmol, 750 mg | NC1=NC=CC2=C1N(C(N2)=O)C | C7H8N4O
reactant | propionaldehyde | 45.7 mmol, 3.30 mL | C(CC)=O | C3H6O
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 13.7 mmol, 2.90 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | 4-Dipropylamino-3-methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one | C(CC)N(C1=NC=CC2=C1N(C(N2)=O)C)CCC | C13H20N4O
